US07192968B2
(1R*,2S*,4R*)-4-Carboxy-N1-[(5-chloroindol-2-yl)-carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine
(1R*,2S*,4R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexane-diamine (916 mg) was suspended in a mixed solvent of ethanol (10 ml) and tetrahydrofuran (8 ml), and a 1N aqueous solution (3.3 ml) of sodium hydroxide was added at room temperature to stir the mixture for 12 hours at the same temperature. After adding 1N hydrochloric acid (3.3 ml), the solvent was distilled off under reduced pressure, and the residue was washed with water and ether to obtain the title compound (712 mg) as a colorless solid.

reactant | (1R*,2S*,4R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexane-diamine | 916 mg | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](C[C@@H](CC1)C(=O)OCC)NC(=O)C=1SC=2CN(CCC2N1)C | C26H30ClN5O4S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3.3 ml | Cl | ClH
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | (1R*,2S*,4R*)-4-Carboxy-N1-[(5-chloroindol-2-yl)-carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | 712 mg | C(=O)(O)[C@H]1C[C@@H]([C@@H](CC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)NC(=O)C=1SC=2CN(CCC2N1)C | C24H26ClN5O4S
